US08809538B2
methyl 3′-((dimethylamino)methyl)biphenyl-4-carboxylate
A solution of methyl 3′-formylbiphenyl-4-carboxylate (0.338 g) was dissolved in 2 mol/L dimethylamine in tetrahydrofuran (20 mL) and stirred at room temperature for 1 hour. Sodium triacetoxyborohydride (0.895 g) was added. The reaction was stirred at room temperature for 5 days and then partitioned between saturated aqueous sodium bicarbonate and ethyl acetate. The organics were dried over magnesium sulfate and concentrated under reduced pressure to afford the crude material, which was purified by flash column chromatography (eluant: 0-5% methanol/dichloromethane (0.5% triethylamine) to furnish the title compound (0.112 g) having the following physical data.

reactant | methyl 3′-formylbiphenyl-4-carboxylate | 0.338 g | C(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)OC | C15H12O3
reactant | Sodium triacetoxyborohydride | 0.895 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dimethylamine | 2 mol/L | CNC | C2H7N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | methyl 3′-((dimethylamino)methyl)biphenyl-4-carboxylate | 0.112 g | CN(C)CC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)OC | C17H19NO2
